Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
grass pollen-perennial rye, standard
 
Attending: ___
 
Chief Complaint:
Difficulty speaking 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ RHM hx T2DM, HLD, HTN presenting after acute onset
dysarthria, aphasia and R facial droop this afternoon, now s/p
TPA at OSH and transferred for further evaluation. 
12:16 ___ today he was sitting at work typing and numbers, when 
he
suddenly he was making mistakes type and remembers he was able 
to
finish the type he successfully, but due to this difficulty call
his wife.  He also started to have difficulty finding his words
and his speech was not normal.  He called his wife, who brought
him to OSH ED. code Stroke was activated, NCHCT without
hemorrhage and he was given TPA after blood pressure was
controlled with 20 mg IV labetalol.  TPA started at 1409 based 
on
hospital records.

Currently he feels his symptoms are perhaps a little better but
hard to tell.
He denies any numbness, weakness, vertigo, diplopia, blurry
vision, dysphagia, difficulty with comprehension during this
event.
He has never had focal neurological symptoms like this before.

Prior to this event this afternoon, he states he was in his 
usual
state of health, without recent history of head trauma or falls,
no illnesses.
 
Past Medical History:
T2DM 
HTN 
HLD 
 
Social History:
___
Family History:
Dad with stroke in  ___. no other known hx stroke or
MIs
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
Vitals: at OSH: 177/109, HR 84, RR 20, O2 sat 96
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple
 Pulmonary: Normal work of breathing
 Cardiac: RRR, warm, well-perfused
 Abdomen: soft, non-distended
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.
  
 Neurologic Exam:
 -Mental Status: Alert, oriented x 3 (says ___ but self 
corrects
to ___ quickly). Able to relate history without difficulty.
Attentive, able to name ___ backward without difficulty. 
Language
with mildly decreased fluency but able to comprehend and repeat.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects except could not
identify hammock on stroke card. Speech with mild
stuttering/dysarthria. Able to follow both midline and
appendicular commands. Pt was able to register 3 objects and
recall ___ at 5 minutes. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL. EOMI without nystagmus. VFF to
confrontation. 
 V: Facial sensation intact to light touch.
 VII: R ptosis, RNLFF and decreased activation of R face with
grimace. 
 VIII: Hearing intact to conversation
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. 
   Delt Bic Tri WrE  FE Ffl IP Quad Ham  TA Gastroc  
 L  5   5    5  5    ___   5     5    ___   
 R  5   5    5  5    ___   5     5    ___   
RAM (serial finger tapping) slightly slower on R

-Sensory: No deficits to light touch throughout.

-DTRs:
   Bi ___ Pat Ach
 L  3  3    2    1   
 R  3  3    2    1   
 Plantar response was flexor left, mute R. 
 -Coordination: No intention tremor. No frank dysmetria with 
FNF,
but FNF on R slower then left with some hesitation at end of
movement prior to touching examiner's finger. 

-Gait: deferred

DISCHARGE SUMMARY 
==================

 Neurologic Exam:
 -Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language with mildly decreased fluency but able to
comprehend and repeat. Normal prosody. There were no paraphasic
errors. Pt was able to name both high and low frequency objects.
Speech with mild stuttering/dysarthria. Able to follow both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL. EOMI without nystagmus. VFF to
confrontation. Appears to have difficulty with lateral gaze in
both direction L>R 
 V: Facial sensation intact to light touch.
 VII: Facial asymmetry but difficult to asses which side is 
truly
weak 
 VIII: Hearing intact to conversation
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Decreased rapid movement of R hand. Slight right
prontation 

 No adventitious movements, such as tremor, noted. 
   Delt Bic Tri WrE  IO   FE   Ffl IP Quad Ham  TA Gastroc  
 L  5   5    5       5     5    5      5  5    5        5    5   
5   
 R  5   5    5      5     4+   4+   5   4+ 5      5-   5    5   
RAM (serial finger tapping) slightly slower on R

-Sensory: No deficits to light touch throughout.

-DTRs:
   Bi ___ Pat Ach
 L  3  3    2    1   
 R  3  3    2    1   
 Plantar response was flexor left, mute R. 
 -Coordination: No intention tremor.possible subtle dysmetria w/
FNF on right 

 
Pertinent Results:
___ 09:45AM BLOOD WBC-6.6 RBC-4.66 Hgb-14.2 Hct-43.3 MCV-93 
MCH-30.5 MCHC-32.8 RDW-12.9 RDWSD-43.6 Plt ___
___ 09:45AM BLOOD Glucose-141* UreaN-18 Creat-0.9 Na-139 
K-4.0 Cl-99 HCO3-27 AnGap-13
___ 09:45AM BLOOD ALT-36 AST-17 CK(CPK)-119 AlkPhos-58 
TotBili-0.6
___ 09:45AM BLOOD %HbA1c-8.9* eAG-209*
___ 09:45AM BLOOD Triglyc-238* HDL-38* CHOL/HD-4.4 
LDLcalc-83

IMAGING
=========
 MRI 
FINDINGS: 
 
There is a focus of T2/FLAIR hyperintensity with restricted 
diffusion centered
over the left lentiform nucleus, consistent with acute 
infarction.  There is
no evidence of hemorrhage.  Bilateral basal ganglia 
calcifications are noted. 
There is no midline shift. The ventricles and sulci are normal 
in caliber and
configuration.

CTA 
MPRESSION: 
 
No significant abnormalities on CT of the head without contrast. 
 No
significant abnormalities on CT angiography of the head and 
neck.  Normal CT
perfusion.

TTE 
 Suboptimal image quality. Mild symmetric left ventricular 
hypertrophy with
normal cavity size and regional/global biventricular systolic 
function. No valvular pathology or
pathologic flow identified. High normal pulmonary artery 
systolic pressure. No definite structural
cardiac source of embolism identified.
 
Brief Hospital Course:
Transitional Issues 
[ ] Pt should have a zio patch placed to monitor for atrial 
fibrillation, and should be referred to an endocrinologist 
(___) and a neurologist, however pt's PCP needs to make these 
referrals given he is an Atrius patient 
[ ] Please uptitrate his blood pressure medications as 
appropriate 

Mr. ___ is a ___ year old man with past medical history of 
poorly controlled hypertension, hyperlipidemia, and diabetes who 
presented as transfer from outside hospital with word finding 
difficulty and right sided weakness. Mr. ___ received TPA and 
his NIHSS improved from 4 (2 facial palsy, 1 language, and 1 
dysarthria) to 1 on day of discharge ___ facial palsy)). 
MRI revealed a left basal ganglia stroke that is most likely 
secondary to small vessel disease.

Mr. ___ needs to better manage his stroke risk factors. He is 
seen by a primary physician, but he admits that he does not 
regularly take his medications. Mr. ___ blood pressure in 
the hospital without anti hypertensives was in the 160 range and 
his LDL and A1C were 83 and 8.9%. Echo did not reveal PFO/LVO 
and in house telemetry did not reveal atrial 
fibrillation/abnormal heart rhythm.

Left basal ganglia stroke:
Aspirin 81 mg daily and management of below conditions.
___ in stroke neurology clinic in ___ months
Outpatient speech referral
Will make appointment for him to have ziopatch placed

DMII
A1C 8.9%
Patient should be seen in  ___. He is currently taking 
metformin 1000 mg BID and glimepiride 4 mg daily. He is on 
lisinopril 10 mg daily.

Hypertension:
Patient's SBP in 160s when off blood pressure medications. He is 
taking lisinopril 10 mg daily.

Hyperlipidemia:
LDL 83
Patient's atorvastatin increased to 80 mg daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Fenofibrate 67 mg PO DAILY 
4. glimepiride 4 mg oral BID 
5. Lisinopril 10 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Aspirin 81 mg PO DAILY  
3.  Fenofibrate 67 mg PO DAILY  
4.  glimepiride 4 mg oral BID  
5.  Lisinopril 10 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.Outpatient Speech/Swallowing Therapy
Dr. ___ 
___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left basal ganglia stroke 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You presented to the hospital with word finding difficulty and 
right sided weakness.  You have been found to have a stroke on 
the left side of your brain.  We are uncertain what has caused 
you to have a stroke, but suspect that it was the result of a 
combination of your poorly controlled diabetes, high blood 
pressure, and high cholesterol.

The best way to prevent yourself from having another stroke is 
to obtain better control of your diabetes, hypertension, and 
hyperlipidemia.  We recommend regular exercise, healthy diet, 
and regular follow up with your primary physician.  We will send 
a referral for you to be seen in ___ clinic for management of 
your diabetes.  We will also have you follow up in Stroke Clinic 
in ___ months. 

We recommend that you continue to take aspirin 81 mg daily for 
secondary stroke prevention.  We have increased your metformin 
to 1000 mg twice daily and atorvastatin to 80 mg daily.  We 
recommend that you continue taking lisinopril at 10 mg daily. 

We will need for you to return to the hospital in ___ weeks to 
have a heart monitor placed.  You will wear the monitor for two 
weeks.  This will be important to ensure that you do not have an 
irregular heart rhythm that can predispose you to stroke. 

Thank you for allowing us to care for you, 
___ Neurology  
 
Followup Instructions:
___